US05698584
Step 5 2-(3,5-Difluorophenyl)-3-(4-(methylsulfonyl)phenyl)-2-cyclopenten-1-ol
To a -78° C. solution of 2-(3,5-Difluorophenyl)-3-(4-(methylsulfonyl)phenyl)-2-cyclopenten-1-one (98 mg, 0.28 mmol) in THF (5 mL) was added DIBAL (1.5M toluene solution, 0.4 mL, 0.6 mmol). The solution was warmed to 0° C. and stirred 15 min, then cooled to -78° C. and quenched with 0.5 mL acetone. The solution was warmed and poured into 1M sodium potassium tartrate. The mixture was extracted with EtOAc, washed with brine, and dried over MgSO4. Crystallization from ether/hexanes provided the title compound (90 mg).

reactant | 2-(3,5-Difluorophenyl)-3-(4-(methylsulfonyl)phenyl)-2-cyclopenten-1-one | 0.28 mmol, 98 mg | FC=1C=C(C=C(C1)F)C=1C(CCC1C1=CC=C(C=C1)S(=O)(=O)C)=O | C18H14F2O3S
reactant | DIBAL | 0.6 mmol, 1.5M, 0.4 mL | CC(C)C[AlH]CC(C)C
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(3,5-Difluorophenyl)-3-(4-(methylsulfonyl)phenyl)-2-cyclopenten-1-ol | 90 mg | FC=1C=C(C=C(C1)F)C=1C(CCC1C1=CC=C(C=C1)S(=O)(=O)C)O | C18H16F2O3S
